US04563210
To a solution of 5-amino-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile and 3 ml of bromine in 50 ml of chloroform was added 1.7 g of isoamyl nitrite. The reaction mixture was stirred at room temperature for approximately 10 minutes and then refluxed for approximately one hour. The solution was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel employing toluene as the eluent. Fractions containing the major component were combined and the solvent was evaporated therefrom to afford 0.8 g of 5-bromo-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile after crystallization from 3A alcohol. mp=101°-102° C.

reactant | 5-amino-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N | C10H6Cl2N4
reactant | bromine | 3 ml | BrBr | Br2
reactant | isoamyl nitrite | 1.7 g | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile | 0.8 g | BrC1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N | C10H4BrCl2N3
